US05466701
To a solution of 6-hydroxy-4-isopropyl-2-phenylthiomethylsaccharin (2.0 g, 5.5 mol) in THF (40 mL) were added triphenylphosphine (1.46 g, 5.56 mmol), 2-benzyloxyethanol (0.87g, 5.71 mmol) and triphenylphosphine (0.99 g, 5.68 mmol). The mixture was stirred at room temperature for 16 hours, the solvent was removed in vacuo and the residue was purified by column chromatography on silica eluting with 20% EtOAc/hexane to afford 2.1 g (77%) of 4-isopropyl-6-[2-benzyloxy)ethoxy]-2-phenylthiomethylsaccharin, m.p. 98°-99° C.

reactant | 6-hydroxy-4-isopropyl-2-phenylthiomethylsaccharin | 5.5 mol, 2.0 g | OC1=CC(=C2C(N(S(=O)(=O)C2=C1)CSC1=CC=CC=C1)=O)C(C)C | C17H17NO4S2
reactant | triphenylphosphine | 5.56 mmol, 1.46 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-benzyloxyethanol | 5.71 mmol, 0.87g | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | triphenylphosphine | 5.68 mmol, 0.99 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-phenylthiomethylsaccharin | C1(=CC=CC=C1)SCN1S(=O)(=O)C2=CC=CC=C2C1=O | C14H11NO3S2
